US07786104B2
6.1 4-Methoxy-5-nitro-2-(pyrrolidin-1-yl)pyridine
The process is carried out according to the method described in step 5.1, using 5.4 g (28.64 mmol) of 2-chloro-4-methoxy-5-nitropyridine (WO 03/080610) and 4.53 g (63 mmol) of pyrrolidine. The product obtained is, in this case, purified by silica column chromatography, elution being carried out with a mixture of heptane and ethyl acetate. 3 g of the expected product are thus isolated.

reactant | 2-chloro-4-methoxy-5-nitropyridine | 28.64 mmol, 5.4 g | ClC1=NC=C(C(=C1)OC)[N+](=O)[O-] | C6H5ClN2O3
reactant | pyrrolidine | 63 mmol, 4.53 g | N1CCCC1 | C4H9N
product | 4-Methoxy-5-nitro-2-(pyrrolidin-1-yl)pyridine | 3 g | COC1=CC(=NC=C1[N+](=O)[O-])N1CCCC1 | C10H13N3O3
